### PR TITLE
chore: bump to stable `v4.16.0`

### PR DESCRIPTION
**Pull request by pitmonticone**
- [x] Upgrade deprecated lemmas and notation
- [x] Fix errors

### CODE REVIEW

File: scripts/bump.sh
Comment (YaelDillies) [inline scripts/bump.sh:1]: This change would be better as a standalone PR. Alternatively, drop it, since I am removing the script altogether in #334

Comment (pitmonticone) [reply scripts/bump.sh:1]: Yes, it makes sense.

File: FLT/HaarMeasure/DistribHaarChar/RealComplex.lean [hunk 1]
```diff
@@ -31,7 +31,8 @@ open Real Complex MeasureTheory Measure Set
 open scoped Pointwise
 
 lemma Real.volume_real_smul (x : ℝ) (s : Set ℝ) : volume (x • s) = ‖x‖₊ * volume s := by
-  simp [← ennnorm_eq_ofReal_abs]
+  simp [← enorm_eq_ofReal_abs]
+  rfl
```
Comment (Ruben-VandeVelde) [inline FLT/HaarMeasure/DistribHaarChar/RealComplex.lean:35]:
```suggestion
  simp [← enorm_eq_ofReal_abs, enorm_eq_nnnorm]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
